US05541180
A mixture of 7.4 g of N1 -[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]-1,2-ethanediamine, 4.1 g 2-chloropyrimidine, 4.2 g of sodium carbonate and 50.6 ml of ethanol was stirred for 4 hours at reflux temperature. The reaction mixture was evaporated. The residue was purified by column chromatography (silica gel; CHCl3 /CH3OH 90:10). The eluent of the desired fraction was evaporated and the residue was converted into the hydrochloride salt in 2-propanol. The salt was filtered off and dried in vacuo, yielding 4.4 g (33.3%) of (±)-N-[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]-N'-(2-pyrimidinyl)-1,2-ethanediamine dihydrochloride hemihydrate; mp. 192.7° C. (comp. 1).

reactant | N1 -[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]-1,2-ethanediamine | 7.4 g | O1C(CCC2=C1C=CC=C2)CNCCN | C12H18N2O
reactant | 2-chloropyrimidine | 4.1 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | sodium carbonate | 4.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 50.6 ml | C(C)O | C2H6O
product | (±)-N-[(3,4-dihydro-2H-1-benzopyran-2-yl)methyl]-N'-(2-pyrimidinyl)-1,2-ethanediamine dihydrochloride hemihydrate | 4.4 g, 33.3% | O.Cl.Cl.O1C(CCC2=C1C=CC=C2)CNCCNC2=NC=CC=N2.O2C(CCC1=C2C=CC=C1)CNCCNC1=NC=CC=N1.Cl.Cl | InChI=1S/2C16H20N4O.4ClH.H2O/c2*1-2-5-15-13(4-1)6-7-14(21-15)12-17-10-11-20-16-18-8-3-9-19-16;;;;;/h2*1-5,8-9,14,17H,6-7,10-12H2,(H,18,19,20);4*1H;1H2
